US06187914B1
2) Synthesis of 5′-O-p-Nitrobenzoyl-6-N-Benzoyl Deoxyadenosine
The synthesis of this product is carried out by reacting 1 eq of p-nitrobenzoyl chloride with 6-N-benzoyldeoxyadenosine for 4 hours in pyridine. After hydrolysis of the excess reagent, partial evaporation of the pyridine, extraction and evaporation of the chloroformic phase, the product is obtained by column chromatography (elution 4% methanol).

reactant | p-nitrobenzoyl chloride | 1 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 6-N-benzoyldeoxyadenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H17N5O4
reactant | methanol | CO | CH4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5′-O-p-Nitrobenzoyl-6-N-Benzoyl Deoxyadenosine | [N+](=O)([O-])C1=CC=C(C(=O)OC[C@@H]2[C@H](C[C@@H](O2)N2C=NC=3C(NC(C4=CC=CC=C4)=O)=NC=NC23)O)C=C1 | C24H20N6O7
